US06297260B1
43a. 1-(2-Methyl-2-sulfanylpropyl)piperidin-4-one
To a stirred solution of the 1-(8-aza-1,4-dioxaspiro[4.5]dec-8-yl)-2-methylpropane-2-thiol (Synthesis, 1999, 7, 1106) (1.15 g, 4.98 mmol) in THF (12 mL) was added 6 N HCl (12 mL). The mixture was heated at 70° C. overnight, then poured into saturated Na2CO3. The mixture was extracted with EtOAc. The combined organic extracts were dried over Na2SO4 and evaporated. The residue was dissolved in EtOAc and acidified by adding HCl/EtOAc until no more solid formed. The solvent was decanted and the solid was then partitioned between EtOAc and satd Na2CO3. The aqueous layer was extracted with EtOAc and the combined organic extracts were dried over Na2SO4 and evaporated to give the title compound (0.90 g, 4.81 mmol, 97%) as a green oil. 1H NMR (300 MHz, CDCl3) δ 2.96 (t, J=6.0, 4H), 2.52 (s, 2H), 2.41 (t, J=6.0, 4H), 1.34 (s, 6H).

reactant | 1-(8-aza-1,4-dioxaspiro[4.5]dec-8-yl)-2-methylpropane-2-thiol | 4.98 mmol, 1.15 g | O1CCOC12CCN(CC2)CC(C)(S)C | C11H21NO2S
reactant | HCl | 6 N, 12 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 1-(2-Methyl-2-sulfanylpropyl)piperidin-4-one | 4.81 mmol, 0.90 g, 97% | CC(CN1CCC(CC1)=O)(C)S | C9H17NOS
